2138-10-21 11:03:00 Physician Attending Progress Note
Chief Complaint: Hypoglycemia, hypotension.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Hypoglycemia overnight with sugars in the 30-40s. last dose of lantus
   was yesterday am.
 BLOOD CULTURED - At [**2138-10-20**] 09:27 PM
   from newly placed peripheral line
 NASAL SWAB - At [**2138-10-20**] 09:28 PM
   Allergies:
   A.C.E Inhibitors
   Hypotension;
   Codeine
   GI upset;
   Lidocaine
   hair loss;
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2138-10-20**] 04:00 PM
   Infusions:
   Other ICU medications:
   Coumadin (Warfarin) - [**2138-10-20**] 10:03 PM
   Heparin Sodium (Prophylaxis) - [**2138-10-20**] 10:03 PM
   Omeprazole (Prilosec) - [**2138-10-20**] 10:03 PM
   Dextrose 50% - [**2138-10-21**] 04:00 AM
   Other medications:
   asa, pravastatin, omeprazole, synthroid, nephrocaps, amiodarone,
   allopuinol, heparin, flagyl, coumadin 1.5, po vanco, iv vanco with HD.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-10-21**] 11:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 76 (65 - 89) bpm
   BP: 84/29(44) {80/27(36) - 104/49(58)} mmHg
   RR: 25 (14 - 28) insp/min
   SpO2: 99%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 63 Inch
             Total In:
                                                                    972 mL
                                                                    361 mL
   PO:
                                                                    240 mL
                                                                    180 mL
   TF:
   IVF:
                                                                    707 mL
                                                                    106 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    972 mL
                                                                    361 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///20/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.9 g/dL
   517 K/uL
   29 mg/dL
   4.2 mg/dL
   20 mEq/L
   3.6 mEq/L
   29 mg/dL
   100 mEq/L
   134 mEq/L
   35.3 %
   18.2 K/uL
        [image002.jpg]
                             [**2138-10-20**]  06:21 PM
                             [**2138-10-21**]  04:01 AM
   WBC
   20.4
   18.2
   Hct
   34.6
   35.3
   Plt
   450
   517
   Cr
   4.0
   4.2
   TropT
   0.10
   0.10
   Glucose
   98
   29
   Other labs: PT / PTT / INR:20.1/38.3/1.9, CK / CKMB /
   Troponin-T:12//0.10, ALT / AST:[**8-14**], Alk Phos / T Bili:271/0.2,
   Ca++:7.6 mg/dL, Mg++:1.6 mg/dL, PO4:6.4 mg/dL
   Imaging: CXR yesterday clear
   Microbiology: blood culture no growth to date
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE I:
   Hold off on further insulin administration, due to severe hypoglycemia,
   untill this corrects at which point will resume  home lantus.
 HYPOTENSION (NOT SHOCK);
   DDX is broad, f/u blood cultures, hct stable no evidence for bleed, no
   evidence for ACS, f/u echo read, gas exchange is stable with no
   tacycardia doubt PE, random corisol is borderline, will perform
   cortisol stimulation test. Will check TSH level, due to chronic
   amiodarone administration.
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD):
   continue HD MWF per renal
C.diff: empirically on vanco po because of elevated wbc, She has not
   had any diarrhea here yet.. will monitor, if diarrhea has ceased will
   stop vanco.
PE: subtherapeutic on coumadin. patient refuses heparin iv drip and
   aware of risks involved.
   ICU Care
   Nutrition:
   Glycemic Control:  Comments: lantus
   Lines:
   Dialysis Catheter - [**2138-10-20**] 04:50 PM
   20 Gauge - [**2138-10-20**] 08:00 PM
   22 Gauge - [**2138-10-20**] 08:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU while she
s hypoglycemic r/a in afternoon
   Total time spent: 30 minutes

2138-10-22 10:47:00 Physician Attending Progress Note
Chief Complaint: Fatigue, borderline chronic hypotension.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2138-10-21**] 10:00 AM
 CALLED OUT
   Allergies:
   A.C.E Inhibitors
   Hypotension;
   Codeine
   GI upset;
   Lidocaine
   hair loss;
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2138-10-20**] 04:00 PM
   Metronidazole - [**2138-10-22**] 06:07 AM
   Infusions:
   Other ICU medications:
   Other medications:
   ASa 325, pravastatin, omeprazole, levothyroxine, calcium acetate,
   nephrocaps, amiodarone, allopurinol, heparin s/c, coumadin, vanco po,
   iv flagyl, vanco iv with HD
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-10-22**] 10:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.9
C (96.7
   HR: 86 (75 - 89) bpm
   BP: 92/48(55) {81/20(40) - 101/73(154)} mmHg
   RR: 21 (17 - 34) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 55 kg (admission): 52.7 kg
   Height: 63 Inch
             Total In:
                                                                  1,035 mL
                                                                    204 mL
   PO:
                                                                    620 mL
             TF:
   IVF:
                                                                    340 mL
                                                                    204 mL
   Blood products:
   Total out:
                                                                    150 mL
                                                                      0 mL
   Urine:
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                    885 mL
                                                                    204 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///19/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   10.3 g/dL
   470 K/uL
   285 mg/dL
   4.7 mg/dL
   19 mEq/L
   4.6 mEq/L
   36 mg/dL
   99 mEq/L
   131 mEq/L
   34.7 %
   15.3 K/uL
        [image002.jpg]
                             [**2138-10-20**]  06:21 PM
                             [**2138-10-21**]  04:01 AM
                             [**2138-10-22**]  05:19 AM
   WBC
   20.4
   18.2
   15.3
   Hct
   34.6
   35.3
   34.7
   Plt
   [**Telephone/Fax (3) 8405**]
   Cr
   4.0
   4.2
   4.7
   TropT
   0.10
   0.10
   Glucose
   98
   29
   285
   Other labs: PT / PTT / INR:20.1/38.3/1.9, CK / CKMB /
   Troponin-T:12//0.10, ALT / AST:[**8-14**], Alk Phos / T Bili:271/0.2,
   Ca++:7.5 mg/dL, Mg++:1.7 mg/dL, PO4:7.7 mg/dL
   Fluid analysis / Other labs: TSH 9.7
   Imaging: echo EF 20%, diastolic dysfunction, no vegetations.
   Microbiology: Blood cultures
   urine cultures
   Assessment and Plan
 INEFFECTIVE COPING:
   will continue to provide support.
 HYPOGLYCEMIA:
   resolved s/p po diet, will put back on home dose of lantus 10U s/c qam.
 DIABETES MELLITUS (DM), TYPE I:see hypoglycemia
 HYPOTENSION (NOT SHOCK):
   CHF EF of 20%, also chronic HD, BP stable, somewhat improved s/p
   florinef, contineu to hold home metoprolol
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD):
   continue HD MWF
Gas pain: will obtian KUB, pain she sdescribes concerning for
   gastroparesis/delayed gastric emptying, consider gastric emptying study
   on the floor.
TSH elevated: patient states she was not taking her synthroid, needs a
   recheck TSh after discharge on follow up.
Bacteremia: continue vanco iv, surveillance cultures negative to date,
   TTE negative for large vegetations.
Leukocytosis: f/u C.diff culture.
PE: f/u coags today, patient refused heparin s/c
   ICU Care
   Nutrition: po diet
   Glycemic Control:  Lantus
   Lines:
   Dialysis Catheter - [**2138-10-20**] 04:50 PM
   22 Gauge - [**2138-10-20**] 08:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 35 minutes
   Patient is critically ill

2138-10-23 10:01:00 Physician Attending Progress Note
Chief Complaint: Peforated bowel.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 BLOOD CULTURED - At [**2138-10-22**] 11:18 AM
   sent from dialysis line
 EKG - At [**2138-10-22**] 05:29 PM
   Developed worsening abdominal pain over the course of the day, with
   diarrhea, KUB with free air and abdominal CT c/w with ischemic bowel
   and bowel perforation.
   Allergies:
   A.C.E Inhibitors
   Hypotension;
   Codeine
   GI upset;
   Lidocaine
   hair loss;
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2138-10-20**] 04:00 PM
   Metronidazole - [**2138-10-23**] 06:00 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2138-10-22**] 05:11 PM
   Omeprazole (Prilosec) - [**2138-10-23**] 08:00 AM
   Morphine Sulfate - [**2138-10-23**] 08:00 AM
   Other medications:
   ASA 325, pravastatin, omeproazole, calcium acetate, nephrocaps,
   amiodarone 200, allopurinol q0d, heparin s/c tid, warfarin 1.5,
   vancomycin po, iv, flagyl, fludrocortisone, HISS + sliding scale,
   levophed 0.4, iv flagyl.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-10-23**] 10:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (96.9
   HR: 116 (77 - 116) bpm
   BP: 105/37(54) {62/18(33) - 108/81(85)} mmHg
   RR: 19 (16 - 31) insp/min
   SpO2: 95%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 55 kg (admission): 52.7 kg
   Height: 63 Inch
             Total In:
                                                                  1,851 mL
                                                                    590 mL
   PO:
                                                                    510 mL
             TF:
   IVF:
                                                                  1,291 mL
                                                                    590 mL
   Blood products:
   Total out:
                                                                    350 mL
                                                                     20 mL
   Urine:
   20 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  1,501 mL
                                                                    570 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: 2L
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress, Thin, Anxious
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, abdomen diffusely exquisetly tender, no bowel sounds
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Cool
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Tone: Normal
   Labs / Radiology
   12.7 g/dL
   577 K/uL
   99 mg/dL
   2.6 mg/dL
   26 mEq/L
   3.4 mEq/L
   14 mg/dL
   101 mEq/L
   139 mEq/L
   41.9 %
   22.9 K/uL
        [image002.jpg]
                             [**2138-10-20**]  06:21 PM
                             [**2138-10-21**]  04:01 AM
                             [**2138-10-22**]  05:19 AM
                             [**2138-10-22**]  06:15 PM
                             [**2138-10-23**]  05:33 AM
   WBC
   20.4
   18.2
   15.3
   18.1
   22.9
   Hct
   34.6
   35.3
   34.7
   36.0
   41.9
   Plt
   [**Telephone/Fax (3) 8423**]45
   577
   Cr
   4.0
   4.2
   4.7
   2.4
   2.6
   TropT
   0.10
   0.10
   Glucose
   98
   29
   285
   120
   99
   Other labs: PT / PTT / INR:40.0/55.0/4.2, CK / CKMB /
   Troponin-T:12//0.10, ALT / AST:[**3-18**], Alk Phos / T Bili:235/0.3, Amylase
   / Lipase:32/26, Lactic Acid:3.0 mmol/L, Ca++:7.9 mg/dL, Mg++:1.6 mg/dL,
   PO4:4.6 mg/dL
   Imaging: Abdominal Ct and KUB reviewed.
   Microbiology: none new
   Assessment and Plan
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS):
   continue morphine care, nutrition per her request for comfort.
 INEFFECTIVE COPING:
   will meet with her and her daughter and discuss lack of escalation as
   likely most appropriate measure given her wished.  Will comply with her
   request and ask her So to bring in her pet dogs.
 HYPOGLYCEMIA:
   improved. hold given half lantus dose.
 HYPOTENSION (NOT SHOCK):
   continue levophed will discuss with her and her daughter lack of
   escalation of pressors, given 1L IVF. Will add cefepime.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2138-10-20**] 04:50 PM
   22 Gauge - [**2138-10-20**] 08:00 PM
   20 Gauge - [**2138-10-22**] 06:41 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: to meet with her daughter and her later this
   afternoon.
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2138-10-23 10:02:00 Physician Attending Progress Note
Chief Complaint: shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Wosening abdominal pain led to imaging which showed free abdominal air
   and evidence of ischemia throughout small and large bowel. She has gone
   into shock and is on levophed. Surgery was involved and because of the
   probable mortality associated with surgery, the decision was made to
   support her with IVF, pressors and pain medications.
   24 Hour Events:
 BLOOD CULTURED - At [**2138-10-22**] 11:18 AM
   sent from dialysis line
 EKG - At [**2138-10-22**] 05:29 PM
   History obtained from housestaff
   Allergies:
   A.C.E Inhibitors
   Hypotension;
   Codeine
   GI upset;
   Lidocaine
   hair loss;
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2138-10-20**] 04:00 PM
   Metronidazole - [**2138-10-23**] 06:00 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2138-10-22**] 05:11 PM
   Omeprazole (Prilosec) - [**2138-10-23**] 08:00 AM
   Morphine Sulfate - [**2138-10-23**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Abdominal pain
   Flowsheet Data as of  [**2138-10-23**] 09:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (96.9
   HR: 116 (77 - 116) bpm
   BP: 105/37(54) {62/18(33) - 108/81(85)} mmHg
   RR: 19 (16 - 31) insp/min
   SpO2: 95%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 55 kg (admission): 52.7 kg
   Height: 63 Inch
             Total In:
                                                                  1,851 mL
                                                                    591 mL
   PO:
                                                                    510 mL
             TF:
   IVF:
                                                                  1,291 mL
                                                                    591 mL
   Blood products:
   Total out:
                                                                    350 mL
                                                                     20 mL
   Urine:
   20 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  1,501 mL
                                                                    571 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Tender: diffusely
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: awake, alert
   Labs / Radiology
   12.7 g/dL
   577 K/uL
   99 mg/dL
   2.6 mg/dL
   26 mEq/L
   3.4 mEq/L
   14 mg/dL
   101 mEq/L
   139 mEq/L
   41.9 %
   22.9 K/uL
        [image002.jpg]
                             [**2138-10-20**]  06:21 PM
                             [**2138-10-21**]  04:01 AM
                             [**2138-10-22**]  05:19 AM
                             [**2138-10-22**]  06:15 PM
                             [**2138-10-23**]  05:33 AM
   WBC
   20.4
   18.2
   15.3
   18.1
   22.9
   Hct
   34.6
   35.3
   34.7
   36.0
   41.9
   Plt
   [**Telephone/Fax (3) 8423**]45
   577
   Cr
   4.0
   4.2
   4.7
   2.4
   2.6
   TropT
   0.10
   0.10
   Glucose
   98
   29
   285
   120
   99
   Other labs: PT / PTT / INR:40.0/55.0/4.2, CK / CKMB /
   Troponin-T:12//0.10, ALT / AST:[**3-18**], Alk Phos / T Bili:235/0.3, Amylase
   / Lipase:32/26, Lactic Acid:3.0 mmol/L, Ca++:7.9 mg/dL, Mg++:1.6 mg/dL,
   PO4:4.6 mg/dL
   Imaging: abd CT reviewed
   Assessment and Plan
 bowel perforation
 continue supportive care with IVF and pain
   medications, cont abx
 DM / HYPOGLYCEMIA
 decrease insulin
   Shock
 continue pressors, IVF
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   yesterday
   ICU Care
   Code status: DNR / DNI
   Disposition :  ICU
   Total time spent: 37 minutes
   Patient is critically ill

2138-10-24 07:47:00 Physician Resident Progress Note
24 Hour Events:
   - palliative care consult, family at bedside
   - given 1L fluid
   - remains on levophed
   - met with family who gathered
   Allergies:
   A.C.E Inhibitors
   Hypotension;
   Codeine
   GI upset;
   Lidocaine
   hair loss;
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Metronidazole - [**2138-10-24**] 06:12 AM
   Infusions:
   Norepinephrine - 0.4 mcg/Kg/min
   Other ICU medications:
   Omeprazole (Prilosec) - [**2138-10-23**] 08:00 AM
   Morphine Sulfate - [**2138-10-24**] 05:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-10-24**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.4
C (97.6
   HR: 94 (85 - 120) bpm
   BP: 96/31(44) {70/12(22) - 160/116(59)} mmHg
   RR: 17 (17 - 31) insp/min
   SpO2: 92%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 64 kg (admission): 52.7 kg
   Height: 63 Inch
             Total In:
                                                                  2,569 mL
                                                                    718 mL
   PO:
                                                                    220 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  2,349 mL
                                                                    478 mL
   Blood products:
   Total out:
                                                                     20 mL
                                                                    100 mL
   Urine:
                                                                     20 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,549 mL
                                                                    618 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ////
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   )
   Abdominal: Tender: diffusely
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   577 K/uL
   12.7 g/dL
   99 mg/dL
   2.6 mg/dL
   26 mEq/L
   3.4 mEq/L
   14 mg/dL
   101 mEq/L
   139 mEq/L
   41.9 %
   22.9 K/uL
        [image002.jpg]
                             [**2138-10-20**]  06:21 PM
                             [**2138-10-21**]  04:01 AM
                             [**2138-10-22**]  05:19 AM
                             [**2138-10-22**]  06:15 PM
                             [**2138-10-23**]  05:33 AM
   WBC
   20.4
   18.2
   15.3
   18.1
   22.9
   Hct
   34.6
   35.3
   34.7
   36.0
   41.9
   Plt
   [**Telephone/Fax (3) 8423**]45
   577
   Cr
   4.0
   4.2
   4.7
   2.4
   2.6
   TropT
   0.10
   0.10
   Glucose
   98
   29
   285
   120
   99
   Other labs: PT / PTT / INR:40.0/55.0/4.2, CK / CKMB /
   Troponin-T:12//0.10, ALT / AST:[**3-18**], Alk Phos / T Bili:235/0.3, Amylase
   / Lipase:32/26, Lactic Acid:3.0 mmol/L, Ca++:7.9 mg/dL, Mg++:1.6 mg/dL,
   PO4:4.6 mg/dL
   Imaging: CT Final Read;
   1. Pneumoperitoneum.
   2. Abnormal small bowel loops, gas distended, probably will wall
   thickening
   and demonstrate fat pericolonic fat effacement. A larger locules of gas
   is
   seen abutting a segment of small bowel centrally suggestive of a focus
   of
   perforation.
   3. Possible bowel wall thickening involving the colon and pericolonic
   fat
   effacement involving all large bowel. This may be seen in colitis
   (nonspecific). Fluid tracks down the paracolic gutters more on the left
   than
   right. A locule of air abutting a segment of hepatic flexure.
   4. Densely calcified aorta and celiac and superior mesenteric artery
   takeoffs
   in this context is suspiscious for an ischemic component. However,
   given that
   no IV contrast was administered, cannot assess vessel patency.
   5. Left pleural effusion and associated relaxation atelectasis.
   6. Dense vascular calcifications.
   7. Small fat-containing umbilical hernia.
   8. Atrophic kidneys and pancreas.
   Microbiology: [**2138-10-22**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   INPATIENT
   [**2138-10-22**]  STOOL FECAL CULTURE-PENDING; CAMPYLOBACTER CULTURE-PENDING;
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL INPATIENT
   [**2138-10-22**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2138-10-20**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2138-10-20**]  MRSA SCREEN MRSA SCREEN-FINAL INPATIENT
   [**2138-10-20**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   Assessment and Plan
   60 yo F with ESRD on HD, DM1, CAD, CHF EF 30%(s/p ICD) with bowel
   perforation.
   # Shock: Sepsis from perforated bowel as driver, + possible component
   of cardiogenic given EF 20%.
   -          continuing medical management with antibiotics, cefepime,
   flagyl for now, hold for vancomycin.
   -          Levophed for vasopressor support for now, without plans to
   add additional pressor support
   -          Family meeting re: goals of care anticipated
   -          Morphine for comfort.
   -         Goal is DNR/DNI, comfort-directed care
   # h/o PE: On coumadin, INR last known therapeutic
   .
   # DM1: patient with hypogylcemia upon arrival, improved with increased
   PO intake
   -resume humalog sliding scale
   -resume lantus 8U
   -f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] as outpatient
   # CAD: for now medications remain ordered
   -cont asa and statin
   -cont amiodarone
   -hold metoprolol for hypotension
   - ICD to remain on now
   # h/o Vtach: has ICD, in NSR currently
   -cont amiodarone
   # ESRD: pt was offered CVVH and HD by renal, but declined
   # Hyperlipidemia: cont pravastatin
   .
   # Gout: continue allopurinol
   .
   # Hypothyroidism: cont synthroid per home regimen, checking other
   thyroid parameters
   .
   # FEN: IVFs prn / replete lytes prn / full liquids ADAT
   .
   # PPX: home PPI,  coumdin , hold bowel regimen
   ICU Care
   Nutrition: allowing her sips for comfort
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2138-10-20**] 04:50 PM
   20 Gauge - [**2138-10-22**] 06:41 PM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer: home PPI
   VAP:
   Comments:
   Communication:  Comments: boyfriend [**Name (NI) **] [**Name (NI) 8380**] c[**Telephone/Fax (1) 8381**], h
   [**Telephone/Fax (1) 8382**]
   Code status: DNR / DNI
   Disposition: ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
    Clinical status remains about the same. She is on pressors and is
   mostly comfortable. HD was offered to her and she is not interested in
   undergoing further dialysis. Efforts are being made to transfer her
   home with hospice care.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2138-10-24**] 15:22 ------

2138-10-24 11:34:00 Physician Attending Progress Note
Chief Complaint: Bowel perforation, not a surgical candidate
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Remains on maximum dose levophed. BP trending down this am.
   Allergies:
   A.C.E Inhibitors
   Hypotension;
   Codeine
   GI upset;
   Lidocaine
   hair loss;
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Metronidazole - [**2138-10-24**] 06:12 AM
   Cefipime - [**2138-10-24**] 10:00 AM
   Infusions:
   Norepinephrine - 0.4 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2138-10-24**] 09:01 AM
   Other medications:
   ASA 325, pravastatin, omeprazole, cefepime 1gm iv qd, nephrocaps,
   allopurinol, refusing heparin s/c. fludrocortisone, synthryoid,
   levophed 0.4
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-10-24**] 11:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.3
C (97.4
   HR: 112 (85 - 112) bpm
   BP: 83/57(60) {67/12(22) - 160/116(60)} mmHg
   RR: 30 (17 - 31) insp/min
   SpO2: 79%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 64 kg (admission): 52.7 kg
   Height: 63 Inch
             Total In:
                                                                  2,569 mL
                                                                  1,071 mL
   PO:
                                                                    220 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  2,349 mL
                                                                    711 mL
   Blood products:
   Total out:
                                                                     20 mL
                                                                    100 mL
   Urine:
                                                                     20 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,549 mL
                                                                    971 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 79%
   ABG: ////
   Physical Examination patient declines examination
   Labs / Radiology
   12.7 g/dL
   577 K/uL
   99 mg/dL
   2.6 mg/dL
   26 mEq/L
   3.4 mEq/L
   14 mg/dL
   101 mEq/L
   139 mEq/L
   41.9 %
   22.9 K/uL
        [image002.jpg]
                             [**2138-10-20**]  06:21 PM
                             [**2138-10-21**]  04:01 AM
                             [**2138-10-22**]  05:19 AM
                             [**2138-10-22**]  06:15 PM
                             [**2138-10-23**]  05:33 AM
   WBC
   20.4
   18.2
   15.3
   18.1
   22.9
   Hct
   34.6
   35.3
   34.7
   36.0
   41.9
   Plt
   [**Telephone/Fax (3) 8423**]45
   577
   Cr
   4.0
   4.2
   4.7
   2.4
   2.6
   TropT
   0.10
   0.10
   Glucose
   98
   29
   285
   120
   99
   Other labs: PT / PTT / INR:40.0/55.0/4.2, CK / CKMB /
   Troponin-T:12//0.10, ALT / AST:[**3-18**], Alk Phos / T Bili:235/0.3, Amylase
   / Lipase:32/26, Lactic Acid:3.0 mmol/L, Ca++:7.9 mg/dL, Mg++:1.6 mg/dL,
   PO4:4.6 mg/dL
   Assessment and Plan
 Abdominal perforation:
   will contact palliative care and discuss with patient and family to
   determine if she's interested in going home, and if a transfer on
   pressors can be arranged. Continue pressors without escalation and
   antibiotics, morphine as she requests.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2138-10-20**] 04:50 PM
   20 Gauge - [**2138-10-22**] 06:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 20 minutes

2138-10-25 07:40:00 Physician Resident Progress Note
24 Hour Events:
   - continued levophed requirement
   - met again with palliative care. Wish expressed to give her body to
   science, either for medical school teaching, or autopsy.
   - organ bank contact[**Name (NI) **] for potential tissue donation
   Allergies:
   A.C.E Inhibitors
   Hypotension;
   Codeine
   GI upset;
   Lidocaine
   hair loss;
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefipime - [**2138-10-24**] 10:00 AM
   Metronidazole - [**2138-10-25**] 06:00 AM
   Infusions:
   Norepinephrine - 0.4 mcg/Kg/min
   Other ICU medications:
   Omeprazole (Prilosec) - [**2138-10-24**] 08:29 PM
   Morphine Sulfate - [**2138-10-25**] 05:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-10-25**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.9
C (96.6
   HR: 93 (87 - 112) bpm
   BP: 110/32(52) {67/11(27) - 110/57(60)} mmHg
   RR: 14 (14 - 30) insp/min
   SpO2: 96%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 64 kg (admission): 52.7 kg
   Height: 63 Inch
             Total In:
                                                                  2,104 mL
                                                                    477 mL
   PO:
                                                                    560 mL
             TF:
   IVF:
                                                                  1,544 mL
                                                                    477 mL
   Blood products:
   Total out:
                                                                    100 mL
                                                                      0 mL
   Urine:
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,004 mL
                                                                    477 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ////
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   )
   Abdominal: Tender: diffusely
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   577 K/uL
   12.7 g/dL
   99 mg/dL
   2.6 mg/dL
   26 mEq/L
   3.4 mEq/L
   14 mg/dL
   101 mEq/L
   139 mEq/L
   41.9 %
   22.9 K/uL
        [image002.jpg]
                             [**2138-10-20**]  06:21 PM
                             [**2138-10-21**]  04:01 AM
                             [**2138-10-22**]  05:19 AM
                             [**2138-10-22**]  06:15 PM
                             [**2138-10-23**]  05:33 AM
   WBC
   20.4
   18.2
   15.3
   18.1
   22.9
   Hct
   34.6
   35.3
   34.7
   36.0
   41.9
   Plt
   [**Telephone/Fax (3) 8423**]45
   577
   Cr
   4.0
   4.2
   4.7
   2.4
   2.6
   TropT
   0.10
   0.10
   Glucose
   98
   29
   285
   120
   99
   Other labs: PT / PTT / INR:40.0/55.0/4.2, CK / CKMB /
   Troponin-T:12//0.10, ALT / AST:[**3-18**], Alk Phos / T Bili:235/0.3, Amylase
   / Lipase:32/26, Lactic Acid:3.0 mmol/L, Ca++:7.9 mg/dL, Mg++:1.6 mg/dL,
   PO4:4.6 mg/dL
   Assessment and Plan
   60 yo F with ESRD on HD, DM1, CAD, CHF EF 30%(s/p ICD) with bowel
   perforation.
   # Shock: Sepsis from perforated bowel as driver, + possible component
   of cardiogenic given EF 20%.
   -          continuing medical management with antibiotics, cefepime,
   flagyl
   -          Levophed for vasopressor support for now, without plans to
   add additional pressor support
   -          Morphine for comfort.
   -         Goal is DNR/DNI, comfort-directed care, hold lab draws, pt
   offered option of going home with pressor, but declined
   # Bowel perforation: Likely secondary to mesenteric ischemia.
   - medical management with cefepime and flagyl, pain control
   # h/o PE: On coumadin, INR last known therapeutic
   .
   # DM1: patient with hypogylcemia upon arrival, improved with increased
   PO intake
   - HISS
   - FS QIDACHS
   # CAD: for now medications remain ordered
   -cont asa and statin
   -cont amiodarone
   -hold metoprolol for hypotension
   -ICD to remain on now
   # h/o Vtach: has ICD, in NSR currently
   -cont amiodarone
   # ESRD: pt was offered CVVH and HD by renal, but declined
   # Hyperlipidemia: cont pravastatin
   .
   # Gout: continue allopurinol
   .
   # Hypothyroidism: cont synthroid per home regimen, would need to
   recheck thyroid function tests as outpt
   ICU Care
   Nutrition:
   Comments: Regular
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2138-10-20**] 04:50 PM
   20 Gauge - [**2138-10-22**] 06:41 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2138-10-25 08:35:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    Hx of coag neg staph at HD, hypotension with HD. Course complicated by
   abdominal perforation not a surgical candidate
   24 Hour Events:
   > Continue max NE requirement
   > Palliative care meeting yesterday
   Allergies:
   A.C.E Inhibitors
   Hypotension;
   Codeine
   GI upset;
   Lidocaine
   hair loss;
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefipime - [**2138-10-24**] 10:00 AM
   Metronidazole - [**2138-10-25**] 06:00 AM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2138-10-24**] 08:29 PM
   Morphine Sulfate - [**2138-10-25**] 05:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-10-25**] 08:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.9
C (96.6
   HR: 93 (87 - 112) bpm
   BP: 110/32(52) {70/11(27) - 110/57(60)} mmHg
   RR: 14 (14 - 30) insp/min
   SpO2: 96%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 64 kg (admission): 52.7 kg
   Height: 63 Inch
             Total In:
                                                                  2,104 mL
                                                                    492 mL
   PO:
                                                                    560 mL
             TF:
   IVF:
                                                                  1,544 mL
                                                                    492 mL
   Blood products:
   Total out:
                                                                    100 mL
                                                                      0 mL
   Urine:
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,004 mL
                                                                    492 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ////
   Physical Examination
   NAD
   Lungs decreased BS, No WRR
   Abd, distended, tender
   Decreased BS
   Ext no C/E/E
   Non focal neuro exam
   Warm and well perfused
   Labs / Radiology
   No Labs
   [**2138-10-20**]  06:21 PM
   WBC
   20.4
   Hct
   34.6
   Plt
   450
   Cr
   4.0
   TropT
   0.10
   Glucose
   98
   Assessment and Plan
   60 yo F with ESRD on HD, DM1, CAD, CHF EF 30%(s/p ICD) with bowel
   perforation. The focus of her care is to optimize her comfort (though
   she is on pressors)
    # Shock: Sepsis from perforated bowel as driver, + possible component
   of cardiogenic given EF 20%.
   -          continuing medical management with antibiotics, cefepime,
   flagyl
   -          Levophed for vasopressor support for now, without plans to
   add additional pressor support
   -          Morphine for comfort.
   -         Goal is DNR/DNI, comfort-directed care, hold lab draws, pt
   offered option of going home with pressor, but declined
   # ESRD: pt was offered CVVH and HD by renal, but declined
   # Bowel perforation: Likely secondary to mesenteric ischemia.
   - medical management with cefepime and flagyl, pain control
   # h/o PE: Not on anticoagulation
   # DM1: patient with hypogylcemia upon arrival, improved with increased
   PO intake
   - HISS
   - FS QIDACHS
   # CAD:  cont asa
   # h/o Vtach: has ICD, in NSR currently
   # Gout: continue allopurinol
   # Hypothyroidism: cont synthroid per home regimen, would need to
   recheck thyroid function tests as outpt
   Remaining issues per ICU resident note.
   ICU Care
   Nutrition:
   Pleasure feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2138-10-20**] 04:50 PM
   20 Gauge - [**2138-10-22**] 06:41 PM
   Prophylaxis:
   DVT: Patient refusing SQ heparin
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI, no further escalation of care.
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   CRITICAL CARE STAFF ADDENDUM
   I saw Ms. [**Known lastname 8378**] with Dr. [**First Name (STitle) 1130**], whose note above reflects my input.
   Also discussed with patient
s daughter, as Ms. [**Known lastname 8378**] was resting
   comfortably.  Her pain is well controlled and her BP is very slowly
   trending down.  As per prior plans, we are transitioning toward
   comfort-focused care.  We are not escalating vasopressors and avoiding
   noxious interventions.  Discussed with daughter, and all questions
   answered.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 906**], MD
   on:[**2138-10-26**] 12:48 AM ------

2138-10-26 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - d/c'ed medications that pt has been refusing
   - still on levophed
   Allergies:
   A.C.E Inhibitors
   Hypotension;
   Codeine
   GI upset;
   Lidocaine
   hair loss;
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefipime - [**2138-10-25**] 11:07 AM
   Metronidazole - [**2138-10-26**] 05:57 AM
   Infusions:
   Norepinephrine
   Other ICU medications:
   Morphine Sulfate - [**2138-10-25**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-10-26**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36
C (96.8
   HR: 96 (88 - 101) bpm
   BP: 96/59(68) {47/18(21) - 143/96(108)} mmHg
   RR: 19 (15 - 28) insp/min
   SpO2: 91%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 64 kg (admission): 52.7 kg
   Height: 63 Inch
             Total In:
                                                                  1,528 mL
                                                                    100 mL
   PO:
                                                                    255 mL
             TF:
   IVF:
                                                                  1,273 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,528 mL
                                                                    100 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ////
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   )
   Abdominal: Tender: diffusely
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   577 K/uL
   12.7 g/dL
   99 mg/dL
   2.6 mg/dL
   26 mEq/L
   3.4 mEq/L
   14 mg/dL
   101 mEq/L
   139 mEq/L
   41.9 %
   22.9 K/uL
        [image002.jpg]
                             [**2138-10-20**]  06:21 PM
                             [**2138-10-21**]  04:01 AM
                             [**2138-10-22**]  05:19 AM
                             [**2138-10-22**]  06:15 PM
                             [**2138-10-23**]  05:33 AM
   WBC
   20.4
   18.2
   15.3
   18.1
   22.9
   Hct
   34.6
   35.3
   34.7
   36.0
   41.9
   Plt
   [**Telephone/Fax (3) 8423**]45
   577
   Cr
   4.0
   4.2
   4.7
   2.4
   2.6
   TropT
   0.10
   0.10
   Glucose
   98
   29
   285
   120
   99
   Other labs: PT / PTT / INR:40.0/55.0/4.2, CK / CKMB /
   Troponin-T:12//0.10, ALT / AST:[**3-18**], Alk Phos / T Bili:235/0.3, Amylase
   / Lipase:32/26, Lactic Acid:3.0 mmol/L, Ca++:7.9 mg/dL, Mg++:1.6 mg/dL,
   PO4:4.6 mg/dL
   Assessment and Plan:
   60 yo F with ESRD on HD, DM1, CAD, CHF EF 30%(s/p ICD) with bowel
   perforation.
   # Shock: Sepsis from perforated bowel as driver, + possible component
   of cardiogenic given EF 20%.
   -          continuing medical management with antibiotics, cefepime,
   flagyl
   -          Levophed for vasopressor support for now, without plans to
   add additional pressor support
   -          Morphine for comfort.
   -         Goal is DNR/DNI, comfort-directed care, hold lab draws, pt
   offered option of going home with pressor, but declined
   # Bowel perforation: Likely secondary to mesenteric ischemia.
   - medical management with cefepime and flagyl, pain control
   # h/o PE: On coumadin, INR last known therapeutic
   .
   # DM1: patient with hypogylcemia upon arrival, improved with increased
   PO intake
   - HISS
   - FS QIDACHS
   # CAD: for now medications remain ordered
   -cont asa and statin
   -cont amiodarone
   -hold metoprolol for hypotension
   -ICD to remain on now
   # h/o Vtach: has ICD, in NSR currently
   -cont amiodarone
   # ESRD: pt was offered CVVH and HD by renal, but declined
   # Hyperlipidemia: cont pravastatin
   .
   # Gout: continue allopurinol
   .
   # Hypothyroidism: cont synthroid per home regimen, would need to
   recheck thyroid function tests as outpt
   ICU Care
   Nutrition:
   Comments: Regular
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2138-10-20**] 04:50 PM
   20 Gauge - [**2138-10-22**] 06:41 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2138-10-26 08:09:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
                   History obtained from Patient
   Allergies:
   A.C.E Inhibitors
   Hypotension;
   Codeine
   GI upset;
   Lidocaine
   hair loss;
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefipime - [**2138-10-25**] 11:07 AM
   Metronidazole - [**2138-10-26**] 05:57 AM
   Infusions:
   Norepinephrine
   Other ICU medications:
   Morphine Sulfate - [**2138-10-25**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-10-26**] 08:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36
C (96.8
   HR: 96 (88 - 101) bpm
   BP: 96/59(68) {47/18(21) - 143/96(108)} mmHg
   RR: 19 (15 - 28) insp/min
   SpO2: 91%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 64 kg (admission): 52.7 kg
   Height: 63 Inch
             Total In:
                                                                  1,528 mL
                                                                    100 mL
   PO:
                                                                    255 mL
             TF:
   IVF:
                                                                  1,273 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,528 mL
                                                                    100 mL
   Respiratory support
   SpO2: 91%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Distended, Not examined at patient request
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.7 g/dL
   577 K/uL
   99 mg/dL
   2.6 mg/dL
   26 mEq/L
   3.4 mEq/L
   14 mg/dL
   101 mEq/L
   139 mEq/L
   41.9 %
   22.9 K/uL
        [image002.jpg]
                             [**2138-10-20**]  06:21 PM
                             [**2138-10-21**]  04:01 AM
                             [**2138-10-22**]  05:19 AM
                             [**2138-10-22**]  06:15 PM
                             [**2138-10-23**]  05:33 AM
   WBC
   20.4
   18.2
   15.3
   18.1
   22.9
   Hct
   34.6
   35.3
   34.7
   36.0
   41.9
   Plt
   [**Telephone/Fax (3) 8423**]45
   577
   Cr
   4.0
   4.2
   4.7
   2.4
   2.6
   TropT
   0.10
   0.10
   Glucose
   98
   29
   285
   120
   99
   Other labs: PT / PTT / INR:40.0/55.0/4.2, CK / CKMB /
   Troponin-T:12//0.10, ALT / AST:[**3-18**], Alk Phos / T Bili:235/0.3, Amylase
   / Lipase:32/26, Lactic Acid:3.0 mmol/L, Ca++:7.9 mg/dL, Mg++:1.6 mg/dL,
   PO4:4.6 mg/dL
   Assessment and Plan
   60 yo F with ESRD on HD, DM1, CAD, CHF EF 30%(s/p ICD) with bowel
   perforation. The focus of her care is to optimize her comfort (though
   she is on pressors)
    # Shock: Sepsis from perforated bowel as driver, + possible component
   of cardiogenic given EF 20%.
   -          continuing medical management with antibiotics, cefepime,
   flagyl
   -          Levophed for vasopressor support for now, without plans to
   add additional pressor support
   -          Morphine for comfort.
   -         Goal is DNR/DNI, comfort-directed care, hold lab draws, pt
   offered option of going home with pressor, but declined
   # ESRD: pt was offered CVVH and HD by renal, but declined
   # Bowel perforation: Likely secondary to mesenteric ischemia.
   - medical management with cefepime and flagyl, pain control
   # h/o PE: Not on anticoagulation
   # DM1: patient with hypogylcemia upon arrival, improved with increased
   PO intake
   - HISS
   - FS QIDACHS
   # CAD:  cont asa
   # h/o Vtach: has ICD, in NSR currently
   # Gout: continue allopurinol
   # Hypothyroidism: cont synthroid per home regimen, would need to
   recheck thyroid function tests as outpt
   Remaining issues per ICU resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2138-10-20**] 04:50 PM
   20 Gauge - [**2138-10-22**] 06:41 PM
   Prophylaxis:
   DVT: (pt refusing SQ  hep)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2138-10-27 08:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -dc'ed florinef
   -she wanted to be off monitoring because of pruritis
   Allergies:
   A.C.E Inhibitors
   Hypotension;
   Codeine
   GI upset;
   Lidocaine
   hair loss;
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Metronidazole - [**2138-10-26**] 05:57 AM
   Cefipime - [**2138-10-26**] 08:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2138-10-27**] 05:52 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-10-27**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 104 (88 - 104) bpm
   BP: 66/30(38) {66/30(38) - 66/30(38)} mmHg
   RR: 20 (20 - 20) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 64 kg (admission): 52.7 kg
   Height: 63 Inch
             Total In:
                                                                  1,099 mL
                                                                    298 mL
   PO:
             TF:
   IVF:
                                                                  1,099 mL
                                                                    298 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,099 mL
                                                                    298 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   577 K/uL
   12.7 g/dL
   99 mg/dL
   2.6 mg/dL
   26 mEq/L
   3.4 mEq/L
   14 mg/dL
   101 mEq/L
   139 mEq/L
   41.9 %
   22.9 K/uL
        [image002.jpg]
                             [**2138-10-20**]  06:21 PM
                             [**2138-10-21**]  04:01 AM
                             [**2138-10-22**]  05:19 AM
                             [**2138-10-22**]  06:15 PM
                             [**2138-10-23**]  05:33 AM
   WBC
   20.4
   18.2
   15.3
   18.1
   22.9
   Hct
   34.6
   35.3
   34.7
   36.0
   41.9
   Plt
   [**Telephone/Fax (3) 8423**]45
   577
   Cr
   4.0
   4.2
   4.7
   2.4
   2.6
   TropT
   0.10
   0.10
   Glucose
   98
   29
   285
   120
   99
   Other labs: PT / PTT / INR:40.0/55.0/4.2, CK / CKMB /
   Troponin-T:12//0.10, ALT / AST:[**3-18**], Alk Phos / T Bili:235/0.3, Amylase
   / Lipase:32/26, Lactic Acid:3.0 mmol/L, Ca++:7.9 mg/dL, Mg++:1.6 mg/dL,
   PO4:4.6 mg/dL
   Assessment and Plan
   60 yo F with ESRD on HD, DM1, CAD, CHF EF 30%(s/p ICD) with bowel
   perforation.
   # Shock: Sepsis from perforated bowel as driver, + possible component
   of cardiogenic given EF 20%.
   -          continuing medical management with antibiotics, cefepime,
   flagyl
   -          Levophed for vasopressor support for now, without plans to
   add additional pressor support
   -          Morphine for comfort.
   -         Goal is DNR/DNI, comfort-directed care, hold lab draws, pt
   offered option of going home with pressor, but declined
   # Bowel perforation: Likely secondary to mesenteric ischemia.
   - medical management with cefepime and flagyl, pain control
   # h/o PE: No longer on coumadin per pt wishes, INR last known
   therapeutic
   # DM1:
   - HISS
   - FS QIDACHS
   # CAD: for now medications remain ordered
   -cont asa and statin
   -cont amiodarone
   -hold metoprolol for hypotension
   # h/o Vtach: has ICD, in NSR currently
   -cont amiodarone
   -pt wants ICD on
   # ESRD: pt was offered CVVH and HD by renal, but declined
   # Hyperlipidemia: cont pravastatin
   # Gout: continue allopurinol
   # Hypothyroidism: cont synthroid per home regimen, would need to
   recheck thyroid function tests as outpt
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2138-10-20**] 04:50 PM
   20 Gauge - [**2138-10-22**] 06:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2138-10-27 10:40:00 Physician Attending Progress Note
Chief Complaint: Perforated bowel.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Stable, requiring escalating doses of morphine.
   Allergies:
   A.C.E Inhibitors
   Hypotension;
   Codeine
   GI upset;
   Lidocaine
   hair loss;
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Metronidazole - [**2138-10-26**] 05:57 AM
   Cefipime - [**2138-10-27**] 09:00 AM
   Infusions:
   Norepinephrine - 0.4 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2138-10-27**] 09:56 AM
   Other medications:
   morphine 8mg since am.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-10-27**] 10:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 104 (88 - 104) bpm
   BP: 66/30(38) {0/0(0) - 0/0(0)} mmHg
   RR: 20 (20 - 20) insp/min
   SpO2: 93%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 64 kg (admission): 52.7 kg
   Height: 63 Inch
             Total In:
                                                                  1,099 mL
                                                                    460 mL
   PO:
             TF:
   IVF:
                                                                  1,099 mL
                                                                    460 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,099 mL
                                                                    460 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ////
   Physical Examination
   deferred
   Labs / Radiology
   12.7 g/dL
   577 K/uL
   99 mg/dL
   2.6 mg/dL
   26 mEq/L
   3.4 mEq/L
   14 mg/dL
   101 mEq/L
   139 mEq/L
   41.9 %
   22.9 K/uL
        [image002.jpg]
                             [**2138-10-20**]  06:21 PM
                             [**2138-10-21**]  04:01 AM
                             [**2138-10-22**]  05:19 AM
                             [**2138-10-22**]  06:15 PM
                             [**2138-10-23**]  05:33 AM
   WBC
   20.4
   18.2
   15.3
   18.1
   22.9
   Hct
   34.6
   35.3
   34.7
   36.0
   41.9
   Plt
   [**Telephone/Fax (3) 8423**]45
   577
   Cr
   4.0
   4.2
   4.7
   2.4
   2.6
   TropT
   0.10
   0.10
   Glucose
   98
   29
   285
   120
   99
   Other labs: PT / PTT / INR:40.0/55.0/4.2, CK / CKMB /
   Troponin-T:12//0.10, ALT / AST:[**3-18**], Alk Phos / T Bili:235/0.3, Amylase
   / Lipase:32/26, Lactic Acid:3.0 mmol/L, Ca++:7.9 mg/dL, Mg++:1.6 mg/dL,
   PO4:4.6 mg/dL
   Assessment and Plan
 COMFORT CARE (CMO, COMFORT MEASURES)
   continue morphine
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
   wil readdress pressors/antibiotics with her today given her increased
   discomfort, as they are prolonging her suffering.
 HYPOTENSION (NOT SHOCK):
   see above
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   no furhter dialysis given high pressor requirement.
   ICU Care
   Nutrition:
   Comments: po diet
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2138-10-20**] 04:50 PM
   20 Gauge - [**2138-10-22**] 06:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 25 minutes
   ------ Protected Section ------
   CRITICAL CARE STAFF ADDENDUM
   I saw and examined Ms. [**Known lastname 8378**] with Dr. [**First Name (STitle) 8379**], whose note reflects my
   input.  60-year-old woman with ESRD, CNS bacteremia, and abdominal
   perforation.  As per prior notes, direction of care is mostly but not
   completely comfort-focused.  Today, she is having more abdominal pain
   but does not want additional pain medication.  Vasopressor infusion
   continues, but she is declining blood pressure measurement.  Not
   receiving dialysis.  Antibiotics continuing.  A/P
 We will continue
   present plan, based on feasibility and patient/family wishes.  This is
   an unusual circumstance: continuing vasopressors and antibiotics but
   otherwise focusing on comfort.  However, has been discussed several
   times by ICU team with her and her family and is not an entirely
   unreasonable way to proceed.  All questions answered.
   She is critically ill.  30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 906**], MD
   on:[**2138-10-27**] 10:51 ------